US05424277
Phosphorus oxychloride (6.6 g, 43.0 mmol) was added to the resulting 2N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one (15.0 g, 42.8 mmol), followed by stirring for 30 minutes while heating at 160° C. After cooling the reaction solution, an ice-cooled dilute aqueous solution of sodium hydroxide (50 ml) was added thereto, and the mixture was extracted with methylene chloride (200 ml×4). The extract was washed with a dilute aqueous sodium hydroxide (400 ml) and a saturated aqueous solution of sodium chloride (400 ml), and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (development solvent: ethyl acetate/hexane=1/9-1/5) to obtain 3-chloro-2N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-4,5,6,7-tetrahydro-2H-indazole as a white solid (4.3 g 26.5% yield).

reactant | Phosphorus oxychloride | 43.0 mmol, 6.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one | 42.8 mmol, 15.0 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1NC(C=2CCCCC12)=O | C18H20ClFN2O2
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | 3-chloro-2N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-4,5,6,7-tetrahydro-2H-indazole | 26.5% yield | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)OC1CCCC1)Cl)F | C18H19Cl2FN2O
